US05300499
2-(hexyl)-4-bromo thiophene
From said spectra it was determined that 2-(n-hex-1-enyl)-4-bromothiophene was still present in the reaction product. The reaction product was again treated with Wilkenson's Catalyst and hydrogen, overnight. The re-treated reaction mixture was passed through a silica gel plug and eluted with hexane to yield 2.1 gms of a clear, colorless liquid having the following NMR spectra: 7.01 (s, 1H), 6.71 (s, 1H), 2.77 (t=7 Hz, 2H), 1.65 (m, 2H), 1.29-1.35 (m, 6H), 0.89 (t, J=7 Hz, 3H).

reactant | 2-(n-hex-1-enyl)-4-bromothiophene | C(=CCCCC)C=1SC=C(C1)Br | C10H13BrS
reactant | hydrogen | [H][H] | H2
product | 2-(hexyl)-4-bromo thiophene | C(CCCCC)C=1SC=C(C1)Br | C10H15BrS
